US05405861
To a mixture of m-difluorobenzene (75 ml) and anhydrous aluminium chloride (115 g) was added dropwise, while stirring, 2-bromopropionyl chloride (100 g) during 50 minutes. The mixture was stirred for 2 hours on an oil bath at 50°-55° C. The reaction mixture was cooled, to which was added methylene chloride (500 ml). The resultant solution was added, in limited amounts, to ice-water (1.5 l) while stirring. The methylene chloride layer was separated, and the aqueous layer was subjected to extraction twice with methylene chloride (100 ml). The methylene chloride layers were combined and washed with water (500 ml), which was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to leave 2-bromo-2',4'-difluoropropiophenone (142.5 g) as a pale yellow oily product. 1H-NMR (CDCl3) δ: 1.90(3H), 5.25(1H), 6.85~7.06(2H), 7.93~8.05(1H)

reactant | m-difluorobenzene | 75 ml | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminium chloride | 115 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropionyl chloride | 100 g | BrC(C(=O)Cl)C | C3H4BrClO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-2',4'-difluoropropiophenone | 142.5 g | BrC(C(=O)C1=C(C=C(C=C1)F)F)C | C9H7BrF2O
